US04039676
The starting material is prepared as follows: To the solution of 42 g of 2-(2-bromoacetyl)-1,4-benzodioxan in 360 ml of methanol, 12 g of sodium borohydride are added while stirring and keeping the temperature below 10°. After 5 hours, the mixture is cooled to 0° and 13.2 g of sodium hydroxide in 150 ml of methanol are added and the mixture kept at -15° overnight. It is poured onto ice, extracted with diethyl ether, the extract washed with saturated aqueous sodium chloride, dried and evaporated, to yield the 1,4-benzodioxan-2-yl-ethyleneoxide.

reactant | 2-(2-bromoacetyl)-1,4-benzodioxan | 42 g | BrCC(=O)C1COC2=C(O1)C=CC=C2 | C10H9BrO3
reactant | sodium borohydride | 12 g | [BH4-].[Na+]
reactant | sodium hydroxide | 13.2 g | [OH-].[Na+]
solvent | methanol | 360 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 1,4-benzodioxan-2-yl-ethyleneoxide | O1C(COC2=C1C=CC=C2)C2CO2 | C10H10O3
